Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Pneumococcal Vaccine
 
Attending: ___.
 
Chief Complaint:
s/p MVC with intrusion into driver's side
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ s/p MVC restr driver with intrusion, L comminuted clavicle 
Fx, small R abdominal hematoma extending to L iliacus with ? 
bone fragment vs small extrav by R iliac crest, L5 R TP Fx
 
Past Medical History:
PMH: chron MRSA, A fib, ?CKD, pulmonary infection
PSH: hx RLL resection
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Exam at discharge:
Vitals: 98.0F, HR 60, RR 18, SpO2 97% RA, BP 148/74
Gen app: sitting upright in bedside chair, appears comfortable, 
NAD
HEENT: EOMI, PERRL.  There is erythema of the left eye but no 
drainage or pain.  Vision grossly intact.  Oral mucosa pink and 
moist.
Neck: trachea midline
CV: RRR, no m/r/g
Lungs: CTA
Abd: bowel sounds present. Soft, NT.
Extrem: warm, well-perfused
Neuro: CN II-XII intact.  Sensation intact and symmetric 
throughout.  Strength ___ in all muscle groups, except for LUE, 
which was unable to be tested ___ presence of sling.  Gait 
intact.
Skin: large ecchymosis at left upper chest and over the left 
shoulder.  
 
Pertinent Results:
On admission:

___ 10:44AM BLOOD WBC-9.0 RBC-4.32* Hgb-13.8 Hct-42.9 
MCV-99* MCH-31.9 MCHC-32.2 RDW-12.6 RDWSD-46.0 Plt ___
___ 10:44AM BLOOD ___ PTT-37.3* ___
___ 10:44AM BLOOD UreaN-19
___ 05:00AM BLOOD Calcium-9.1 Phos-3.8 Mg-2.1

On day of discharge:
___ 03:20PM BLOOD Hct-37.6*
___ 05:00AM BLOOD WBC-8.9 RBC-3.69* Hgb-11.9* Hct-36.8* 
MCV-100* MCH-32.2* MCHC-32.3 RDW-12.7 RDWSD-46.6* Plt ___
 
Brief Hospital Course:
Pt brought to ___ via EMS after ___ where pt was the driver of 
a car that was T-boned with intrusion into the driver's side.  
Found to have L comminuted and displaced clavicular fx, L5 right 
transverse process fx, and R abdominal wall hematoma.  On CT 
abdomen/pelvis, there was a small hyperdense area in the R low 
abdomen that was felt to represent either a bone fragment or 
possible extravasation of IV contrast.  Given that pt was on 
Eliquis, the pt was admitted for observation.  His hematocrits 
were trended and initially dropped from 42.9 on arrival to 36.8. 
 Subsequent labs demonstrated stable hemocrit with last value 
prior to discharge 37.6.  He was seen and evaluated by the 
orthopedic service for his clavicle fracture.  They recommended 
sling for the L arm and follow up in their clinic in 2 weeks.  
His pain was well controlled with Tylenol alone.  He was doing 
well and was discharged to home.  He was instructed to stop his 
Eliquis until he sees his cardiologist.  
 
Medications on Admission:
Eliquis
Bactrim 
 
Discharge Medications:
Bactrim
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. s/p motor vehicle collision
2. Displaced comminuted left clavicle fx
3. Right abdominal wall hematoma
4. L5 right transverse process fx

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came to the hospital after a car accident.  You were found 
to have a broken left collarbone, a broken piece of bone in your 
low back, and a blood collection in your right abdomen.  You 
were monitored overnight to ensure there was no evidence of 
continued bleeding.  Your blood counts decreased initially but 
were stable on repeat lab work.  You were discharged to home in 
stable condition.  You should not restart your Eliquis unless 
told to do so by your cardiologist.  You should keep your left 
arm in the sling until told otherwise by the orthopedic surgeons 
at your follow up appointment.  You may take Tylenol for the 
pain.  You should take no more than 3,000mg of Tylenol per day.
 
Followup Instructions:
___